US08217069B2
Methyl 2,4-dihydroxy-6-methylpyrimidine-5-carboxylate
To a suspension of methyl 3-aminocrotonate (2.0 g) in diethyl ether (15 mL) was added a solution of ethoxycarbonylisocyanate (2 g) in diethyl ether (5 mL) in a dropwise manner under ice-cooling, and the mixture was stirred at the same temperature for 4 hours. The insoluble material was collected by filtration, and the collected material was washed with diethyl ether, and dried under reduced pressure. To this material was added 25% aqueous triethylamine solution (20 mL), and the mixture was stirred at 50° C. overnight, and then stirred at 60° C. for 4 hours. The reaction mixture was concentrated under reduced pressure. The residual crystals were suspended in methylene chloride, and collected by filtration. The collected crystals were washed with methylene chloride, and dried under reduced pressure to give the title compound (1.59 g).

reactant | methyl 3-aminocrotonate | 2.0 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | ethoxycarbonylisocyanate | 2 g | C(C)OC(=O)N=C=O | C4H5NO3
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | Methyl 2,4-dihydroxy-6-methylpyrimidine-5-carboxylate | 1.59 g | OC1=NC(=C(C(=N1)O)C(=O)OC)C | C7H8N2O4
